US06265411B1
A solution of 6-fluorooxindole (227 mg, 1.5 mmol), (prepared according to Synthesis 1993, 51), in THF (3 ml) was added dropwise under nitrogen to sodium hydride (42 mg, 1.75 mmol, pre-washed with hexane). After stirring the resulting mixture for 20 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (169 mg, 0.5 mmol), (prepared as described for the starting material in Example 5), was added as a solid, followed by DMF (3 ml). The mixture was then heated at 75° C. for 1 hour, allowed to cool and the solvent removed by evaporation The mixture was partitioned between water and ether. The aqueous layer was separated and adjusted to pH8 with 2M hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with brine, dried and volatiles removed by evaporation. The residue was triturated with ether and collected by filtration. This solid was dissolved in methylene chloride/methanol, a 5M solution of hydrogen chloride in isopropanol (0.5 ml) was added and the volatiles removed by evaporation. The resulting solid was collected by filtration, washed with ether and dried under vacuum to give 4-(6-fluorooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (198 mg, 81%) as a yellow solid.

reactant | 6-fluorooxindole | 1.5 mmol, 227 mg | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | sodium hydride | 1.75 mmol, 42 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.5 mmol, 169 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-(6-fluorooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 198 mg, 81% | Cl.FC1=CC=C2C(C(NC2=C1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C24H25FN4O4.ClH/c1-31-20-12-17-18(13-21(20)33-8-2-5-29-6-9-32-10-7-29)26-14-27-23(17)22-16-4-3-15(25)11-19(16)28-24(22)30;/h3-4,11-14,22H,2,5-10H2,1H3,(H,28,30);1H
